US04698352
In 10 ml of benzene was dissolved 2.0 g of methyl 5-(4-chlorophenyl)-3-oxo-4-pentenoate, and to this solution was added 1.2 g of N,N-dimethylformamidodimethylacetal. The resulting mixture was subjected to reaction at 70° C. for 1.5 hours. The reaction mixture was cooled to room temperature, and 1.12 g of p-fluoroaniline was then added thereto, after which the resulting mixture was further subjected to reaction for 1.5 hours. After completion of the reaction, 10 ml of diethyl ether was added to the reaction mixture, and the precipitated crystals were collected by filtration, and washed with 10 ml of diethyl ether to obtain 2.2 g of methyl 5-(4-chlorophenyl)-2-(4-fluorophenylaminomethylene)-3-oxo-4-pentenoate having a melting point of 166°-168° C.

reactant | methyl 5-(4-chlorophenyl)-3-oxo-4-pentenoate | 2.0 g | ClC1=CC=C(C=C1)C=CC(CC(=O)OC)=O | C12H11ClO3
reactant | p-fluoroaniline | 1.12 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | methyl 5-(4-chlorophenyl)-2-(4-fluorophenylaminomethylene)-3-oxo-4-pentenoate | 2.2 g | ClC1=CC=C(C=C1)C=CC(C(C(=O)OC)=CNC1=CC=C(C=C1)F)=O | C19H15ClFNO3
